US06498254B1
a) Preparation of 2-[(2,5-dimethylphenyl)methylthio]-6-methylpyridine-1-oxide
A mixture of 4.48 g (0.020 mole) of 2-bromo-6-methylpyridine hydrochloride, 3.34 g (0.022 mole) of 2,5-dimethylbenzylmercaptan and 0.88 g (0.022 mole) of powdered sodium hydroxide were stirred together at room temperature in 35 ml of DMF for 3.5 hours. The reaction mixture was poured into water and the precipitate filtered off and washed with water. Yield 1.96 g or 38%.

reactant | 2-bromo-6-methylpyridine hydrochloride | 0.020 mole, 4.48 g | Cl.BrC1=NC(=CC=C1)C
reactant | 2,5-dimethylbenzylmercaptan | 0.022 mole, 3.34 g | CC1=C(CS)C=C(C=C1)C | C9H12S
reactant | sodium hydroxide | 0.022 mole, 0.88 g | [OH-].[Na+]
reactant | water | O | H2O
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | 2-[(2,5-dimethylphenyl)methylthio]-6-methylpyridine-1-oxide | CC1=C(C=C(C=C1)C)CSC1=[N+](C(=CC=C1)C)[O-] | C15H17NOS
